US09212348B2
Synthesis of methyl 2-(5-oxo-1-(2-phenylpropan-2-yl)-4,5-dihydro-1H-pyrazol-3-yl)acetate (Compound No. 4-01 of the Present Invention)
tert-Butyl 2-(2-phenylpropan-2-yl)hydrazinecarboxylate (250 mg, 1.00 mmol) was dissolved in methylene chloride (2 mL), mixed with p-toluenesulfonic acid monohydrate (0.40 g, 2.1 mmol) and stirred at room temperature for 18 hours. The reaction solution was basified with saturated aqueous sodium hydrogen carbonate and separated. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in toluene (2.0 mL) and acetic acid (70 μL), mixed with dimethyl 1,3-acetonedicarboxylate (174 mg, 1.00 mmol) and stirred at 90° C. for 3 hours and at 105° C. for 3 hours. After completion of the reaction, the reaction solution was allowed to cool to room temperature and diluted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate and then with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by intermediate pressure silica gel column chromatography (silica gel 12 g, ethyl acetate:hexane=1:9 to 3:7) to give 96.3 mg of the desired product as a white solid.

reactant | tert-Butyl 2-(2-phenylpropan-2-yl)hydrazinecarboxylate | 1.00 mmol, 250 mg | C1(=CC=CC=C1)C(C)(C)NNC(=O)OC(C)(C)C | C14H22N2O2
reactant | p-toluenesulfonic acid monohydrate | 2.1 mmol, 0.40 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | dimethyl 1,3-acetonedicarboxylate | 1.00 mmol, 174 mg | COC(=O)CC(=O)CC(=O)OC | C7H10O5
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 70 μL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(5-oxo-1-(2-phenylpropan-2-yl)-4,5-dihydro-1H-pyrazol-3-yl)acetate | 96.3 mg | O=C1CC(=NN1C(C)(C)C1=CC=CC=C1)CC(=O)OC | C15H18N2O3
